US04985419
3-Methylbutylamine (1.74 cc) is added to a solution of 10-{1-[(2S)-2-hydroxymethyl-1-pyrrolidinyl]-2-propyl}-2-phenothiazinecarbothioamide, L series (1.20 g) in absolute ethanol (20 cc). The mixture is brought to 150° C. for 16 hours and then concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 50° C. The residue is diluted with ethyl acetate (100 cc), washed with distilled water (2×50 cc), dried over magnesium sulphate and then concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 50° C., before being purified by chromatography on a column (height: 14.5 cm; diameter: 2.8 cm) of silica gel (0.04-0.06 mm) with a slight excess pressure of nitrogen (40 kPa), eluting with mixtures of cyclohexane and ethyl acetate in proportions (by volume) of 65:35 (1200 cc) and 35:65 (1.2 liters), collecting 60-cc fractions. Fractions 16 to 33 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 50° C. to give 10-{1-[(2S)-2-hydroxymethyl-1-pyrrolidinyl]-2-propyl}-N-(3-methylbutyl)-2-phenothiazinecarboxamide, L series (0.34 g) in the form of a yellow resin.

reactant | 3-Methylbutylamine | 1.74 cc | CC(CCN)C | C5H13N
reactant | 10-{1-[(2S)-2-hydroxymethyl-1-pyrrolidinyl]-2-propyl}-2-phenothiazinecarbothioamide | OC[C@H]1N(CCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(N)=S | C21H25N3OS2
reactant | ethanol | 20 cc | C(C)O | C2H6O
product | 10-{1-[(2S)-2-hydroxymethyl-1-pyrrolidinyl]-2-propyl}-N-(3-methylbutyl)-2-phenothiazinecarboxamide | OC[C@H]1N(CCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(=O)NCCC(C)C | C26H35N3O2S
